US07285569B2
To a solution of 9.5 g (0.0325 mol) 1-benzyl-5-furan-2-yl-3-trifluoromethyl-1H-pyrazole in 350 mL acetone was added 27.2 g (0.172 mol) potassium permanganate in 450 ml water. The reaction mixture was heated at 60° C. for 4 h. After cooling to room temperature 200 ml 2-propanol were added and the mixture was stirred over night, it was filtered through a Celite pad and washed with 1 l acetone. The filtrate was concentrated in vacuo down to 150 mL. The residue was dissolved in 20 mL 2M NaOH and 150 mL water. The resulting aqueous phase was washed twice with 70 ml ethyl ether and was then acidified with 30 ml 5M HCl solution. The suspension was extracted with 200 and 50 ml ethyl acetate (EtOAc). The combined organic extracts were washed with 30 mL water and 5 mL brine and concentrated. The residue was purified by silica gel chromatography (CH2Cl2 with 1% acetic acid) to give 6.1 g (0.022 mol, 67%) of 2-benzyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid as a off-white solid. MS: M=271.1 (ESI+)

reactant | 1-benzyl-5-furan-2-yl-3-trifluoromethyl-1H-pyrazole | 0.0325 mol, 9.5 g | C(C1=CC=CC=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F | C15H11F3N2O
reactant | potassium permanganate | 0.172 mol, 27.2 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 2-propanol | 200 ml | CC(C)O | C3H8O
solvent | acetone | 350 mL | CC(=O)C | C3H6O
solvent | water | 450 ml | O | H2O
product | 2-benzyl-5-trifluoromethyl-2H-pyrazole-3-carboxylic acid | 0.022 mol, 6.1 g, 67% | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)O)C(F)(F)F | C12H9F3N2O2
